US05032634
A suitable reaction vessel was charged with 14.48 grams (0.362 mole) of sodium hydroxide dissolved in 80 ml water. A solution of 28.77 grams (0.131 mole) of dimethyltin dichloride and 7.92 grams (0.033 mole) of monomethyltin trichloride was added at a rate sufficient to maintain the exothermic reaction mixture at or below 75° C. Then, 75.1 grams (0.362 mole) isooctylthioglycolate was added and reacted. After separating off the aqueous phase, the oily product phase was vacuum stripped and filtered to yield 100 grams of a 75% dimethyltin bis(isooctylthioglycolate)/25% monomethyltin tris(isooctylthioglycolate) mixture.

reactant | sodium hydroxide | 0.362 mole, 14.48 grams | [OH-].[Na+]
reactant | dimethyltin dichloride | 0.131 mole, 28.77 grams | C[Sn](C)(Cl)Cl
reactant | monomethyltin trichloride | 0.033 mole, 7.92 grams | C[Sn](Cl)(Cl)Cl
reactant | isooctylthioglycolate | 0.362 mole, 75.1 grams | C(CCCCC(C)C)C(C(=O)[O-])S
solvent | water | 80 ml | O | H2O
product | dimethyltin bis(isooctylthioglycolate) | C(CCCCC(C)C)C(C(=O)[O-])S.C(CCCCC(C)C)C(C(=O)[O-])S.C[Sn+2]C | InChI=1S/2C10H20O2S.2CH3.Sn/c2*1-8(2)6-4-3-5-7-9(13)10(11)12;;;/h2*8-9,13H,3-7H2,1-2H3,(H,11,12);2*1H3;/q;;;;+2/p-2
